US05981533
1-Benzyl-4-chloro-3-(3-methoxy-phenyl)-pyrazolo[3,4-d]pyrimidine
A mixture of 2.48 g (7.46 mmol) of 1-benzyl-4-hydroxy-3-(3-methoxy-phenyl)-pyrazolo[3,4-d]pyrimidine and 30 ml of phosphorus oxychloride is heated under reflux for 10 hours and then, with stirring, poured slowly into ice-water. The reaction mixture is stirred for a further 2 hours at 0-10° C. and filtered and the filter residue is washed with water. The crude product is dissolved in methylene chloride and the organic phase is washed with brine, dried over sodium sulfate and concentrated by evaporation in vacuo. Purification of the residue by flash chromatography on silica gel (230-400 mesh) using methylene chloride and methylene chloride/methanol mixtures (99:1 and 49:1) yields the title compound; m.p. 99-101° C.; FAB-MS: (M+H)+ =351.

reactant | 1-benzyl-4-hydroxy-3-(3-methoxy-phenyl)-pyrazolo[3,4-d]pyrimidine | 7.46 mmol, 2.48 g | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2O)C2=CC(=CC=C2)OC | C19H16N4O2
reactant | phosphorus oxychloride | 30 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 1-Benzyl-4-chloro-3-(3-methoxy-phenyl)-pyrazolo[3,4-d]pyrimidine | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2Cl)C2=CC(=CC=C2)OC | C19H15ClN4O
